* Fan-in summing amplifier, N=2, mode=opamp_err
* preset note: Generic assumed bipolar op-amp (not a real datasheet).
.include UniversalOpAmp2.lib

.subckt MyOpAmp 1 2 3 4 5
* pins: 1=IN+ 2=IN- 3=VCC 4=VEE 5=OUT
X_internal 1 2 3 4 5 level2 params: Avol=100000 GBW=1e+06 Slew=1e+06 Vos=0.002 Ib=8e-08 Ios=2e-08 rail=1 ilimit=0.025
.ends MyOpAmp

.param Rin_nom=10000 Rf_nom=10000
V+ vcc 0 15
V- vee 0 -15
Vinp inp 0 0
XU1 inp inn vcc vee out MyOpAmp
Rf inn out {Rf_nom}
Vin1 n1 0 PWL(0 -1 0.001 -1 0.001001 1 0.002 1 0.002001 -1 0.003 -1 0.003001 1 0.006 1)
Rin1 n1 inn {Rin_nom}
Vin2 n2 0 PWL(0 -1 0.002 -1 0.002001 1 0.003 1 0.003001 -1 0.004 -1 0.004001 1 0.006 1)
Rin2 n2 inn {Rin_nom}
.tran 0 0.006 0 2e-07
.meas TRAN vph_lo AVG V(out) FROM=1.75943669e-05 TO=0.000982405633
.meas TRAN vph_oh1 AVG V(out) FROM=0.00101759437 TO=0.00198240563
.meas TRAN vph_oh2 AVG V(out) FROM=0.00201759437 TO=0.00298240563
.meas TRAN vph_cum1 AVG V(out) FROM=0.00301759437 TO=0.00398240563
.meas TRAN vph_cum2 AVG V(out) FROM=0.00401759437 TO=0.00498240563
.meas TRAN vph_hi AVG V(out) FROM=0.00501759437 TO=0.00598240563
.backanno
.end
